US04250085
In a manner analogous to that described in Example 5(A) (iii), from the monobenzylamine salt of (1R)-1-[(N-benzyloxycarbonyl-N-methyl-L-valyl-L-norvalyl-L-norvalyl)amino]-ethylphosphonic acid there was obtained (1R)-1-(N-methyl-L-valyl-L-norvalyl-L-norvalylamino)-ethylphosphonic acid of melting point 300°-302° C. (decomposition).

reactant | monobenzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | (1R)-1-[(N-benzyloxycarbonyl-N-methyl-L-valyl-L-norvalyl-L-norvalyl)amino]-ethylphosphonic acid | C(C1=CC=CC=C1)OC(=O)N([C@@H](C(C)C)C(=O)N[C@@H](CCC)C(=O)N[C@@H](CCC)C(=O)N[C@@H](C)P(O)(O)=O)C | C26H43N4O8P
product | (1R)-1-(N-methyl-L-valyl-L-norvalyl-L-norvalylamino)-ethylphosphonic acid | CN[C@@H](C(C)C)C(=O)N[C@@H](CCC)C(=O)N[C@@H](CCC)C(=O)N[C@@H](C)P(O)(O)=O | C18H37N4O6P
